US07951963B2
In 75 mL of 1,2-dimethoxyethane was dissolved 50.0 g of 3-(2-(1-benzothiophen-5-yl)ethoxy)propionic acid. Thereto was added 26.1 g of thionyl chloride, which was then refluxed for 2 hours. After cooling, this reaction solution was dropwise added to a mixed solution of 125 mL of water, 20.0 g of sodium hydroxide and 25.2 g of 3-azetidinol hydrochloride at −5 to 10° C., which was then stirred at 0 to 15° C. for 30 minutes. Thereto was added 75 mL of water, which was heated to 40° C. and dissolved. After cooling, the precipitate was collected by filtration to provide 56.5 g of 1-(3-(2-(1-benzothiophen-5-yl)ethoxy)propionyl)azetidin-3-ol as white solid form.

reactant | 3-(2-(1-benzothiophen-5-yl)ethoxy)propionic acid | 50.0 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)O | C13H14O3S
reactant | thionyl chloride | 26.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydroxide | 20.0 g | [OH-].[Na+]
reactant | 3-azetidinol hydrochloride | 25.2 g | Cl.N1CC(C1)O
solvent | 1,2-dimethoxyethane | 75 mL | COCCOC | C4H10O2
solvent | water | 75 mL | O | H2O
solvent | water | 125 mL | O | H2O
product | 1-(3-(2-(1-benzothiophen-5-yl)ethoxy)propionyl)azetidin-3-ol | 56.5 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)N2CC(C2)O | C16H19NO3S
